US06511974B1
[6-(1-Methyl-1H-pyrazol-4-yl)-pyridin-3-yl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone
A solution of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (0.37 g) and diisopropylethylamine (0.61 g) in dichloromethane (25 ml) was cooled to 0° C. and a solution of 6-(1-methyl-1H-pyrazol-4-yl)pyridine-3-carbonyl chloride in dichloromethane (25 ml) was added portionwise. After 18 hours at room temperature, the reaction mixture was washed with water and a saturated aqueous sodium bicarbonate solution. The dichloromethane solution was dried over anhydrous sodium sulfate and filtered through a short column of hydrous sodium magnesium silicate and further eluted with several volumes of dichloromethane. The combined organic phase was concentrated on a hot plate with the gradual addition of hexane until crystallization occurred. After cooling, the crystals were collected by filtration to yield the title compound (0.31 g), m.p. 173-175° C.; MS, m/z: 370.3 (M+H)+.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.37 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | diisopropylethylamine | 0.61 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-(1-methyl-1H-pyrazol-4-yl)pyridine-3-carbonyl chloride | CN1N=CC(=C1)C1=CC=C(C=N1)C(=O)Cl | C10H8ClN3O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | [6-(1-Methyl-1H-pyrazol-4-yl)-pyridin-3-yl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone | 0.31 g | CN1N=CC(=C1)C1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H19N5O
